*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-271
* Inductance = 270nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HL-271_freq port1 port2 PARAMS: Cpar=0.16pF Ind=270nH
X1 port1 port2 Model2A PARAMS:
+ R1=78
+ R2=1.95
+ C= {Cpar}
+ K1=0.0006
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17873.2067
.ends 0402HL-271_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-271
* Inductance = 270nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402HL-271_imp port1 port2 PARAMS: Cpar=0.16pF Ind=270nH
X1 port1 port2 Model1D PARAMS:
+ R1=78
+ R2=1.95
+ C= {Cpar}
+ K1=0.0006
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17873.2067
.ends 0402HL-271_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-301
* Inductance = 300nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HL-301_freq port1 port2 PARAMS: Cpar=0.19pF Ind=300nH
X1 port1 port2 Model2A PARAMS:
+ R1=95
+ R2=2.15
+ C= {Cpar}
+ K1=0.0007
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14007.3627
.ends 0402HL-301_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-301
* Inductance = 300nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402HL-301_imp port1 port2 PARAMS: Cpar=0.19pF Ind=300nH
X1 port1 port2 Model1D PARAMS:
+ R1=95
+ R2=2.15
+ C= {Cpar}
+ K1=0.0007
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14007.3627
.ends 0402HL-301_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-331
* Inductance = 330nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-800MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HL-331_freq port1 port2 PARAMS: Cpar=0.225pF Ind=330nH
X1 port1 port2 Model2A PARAMS:
+ R1=80
+ R2=2.23
+ C= {Cpar}
+ K1=0.0006
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15557.3437
.ends 0402HL-331_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-331
* Inductance = 330nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-800MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402HL-331_imp port1 port2 PARAMS: Cpar=0.225pF Ind=330nH
X1 port1 port2 Model1D PARAMS:
+ R1=80
+ R2=2.23
+ C= {Cpar}
+ K1=0.0006
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15557.3437
.ends 0402HL-331_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-361
* Inductance = 360nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-700MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HL-361_freq port1 port2 PARAMS: Cpar=0.23pF Ind=360nH
X1 port1 port2 Model2A PARAMS:
+ R1=100
+ R2=2.36
+ C= {Cpar}
+ K1=0.0009
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12963.3361
.ends 0402HL-361_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-361
* Inductance = 360nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-700MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402HL-361_imp port1 port2 PARAMS: Cpar=0.23pF Ind=360nH
X1 port1 port2 Model1D PARAMS:
+ R1=100
+ R2=2.36
+ C= {Cpar}
+ K1=0.0009
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12963.3361
.ends 0402HL-361_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-391
* Inductance = 390nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HL-391_freq port1 port2 PARAMS: Cpar=0.73pF Ind=390nH
X1 port1 port2 Model2A PARAMS:
+ R1=65
+ R2=2.35
+ C= {Cpar}
+ K1=0.0008
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6808.65534
.ends 0402HL-391_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-391
* Inductance = 390nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402HL-391_imp port1 port2 PARAMS: Cpar=0.73pF Ind=390nH
X1 port1 port2 Model1D PARAMS:
+ R1=65
+ R2=2.35
+ C= {Cpar}
+ K1=0.0008
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6808.65534
.ends 0402HL-391_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-471
* Inductance = 470nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HL-471_freq port1 port2 PARAMS: Cpar=1.1pF Ind=470nH
X1 port1 port2 Model2A PARAMS:
+ R1=60
+ R2=2.67
+ C= {Cpar}
+ K1=0.0005
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6365.41161
.ends 0402HL-471_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-471
* Inductance = 470nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402HL-471_imp port1 port2 PARAMS: Cpar=1.1pF Ind=470nH
X1 port1 port2 Model1D PARAMS:
+ R1=60
+ R2=2.67
+ C= {Cpar}
+ K1=0.0005
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6365.41161
.ends 0402HL-471_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-511
* Inductance = 510nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-700MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HL-511_freq port1 port2 PARAMS: Cpar=0.22pF Ind=510nH
X1 port1 port2 Model2A PARAMS:
+ R1=130
+ R2=3.5
+ C= {Cpar}
+ K1=0.0008
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15784.8071
.ends 0402HL-511_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-511
* Inductance = 510nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-700MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402HL-511_imp port1 port2 PARAMS: Cpar=0.22pF Ind=510nH
X1 port1 port2 Model1D PARAMS:
+ R1=130
+ R2=3.5
+ C= {Cpar}
+ K1=0.0008
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15784.8071
.ends 0402HL-511_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-561
* Inductance = 560nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-900MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HL-561_freq port1 port2 PARAMS: Cpar=0.185pF Ind=560nH
X1 port1 port2 Model2A PARAMS:
+ R1=130
+ R2=3.7
+ C= {Cpar}
+ K1=0.0007
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20857.4168
.ends 0402HL-561_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-561
* Inductance = 560nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-900MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402HL-561_imp port1 port2 PARAMS: Cpar=0.185pF Ind=560nH
X1 port1 port2 Model1D PARAMS:
+ R1=130
+ R2=3.7
+ C= {Cpar}
+ K1=0.0007
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=20857.4168
.ends 0402HL-561_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-601
* Inductance = 600nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HL-601_freq port1 port2 PARAMS: Cpar=0.172pF Ind=600nH
X1 port1 port2 Model2A PARAMS:
+ R1=150
+ R2=3.78
+ C= {Cpar}
+ K1=0.000004
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=23320.621
.ends 0402HL-601_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-601
* Inductance = 600nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402HL-601_imp port1 port2 PARAMS: Cpar=0.172pF Ind=600nH
X1 port1 port2 Model1D PARAMS:
+ R1=150
+ R2=3.78
+ C= {Cpar}
+ K1=0.000004
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=23320.621
.ends 0402HL-601_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-741
* Inductance = 740nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HL-741_freq port1 port2 PARAMS: Cpar=1pF Ind=740nH
X1 port1 port2 Model2A PARAMS:
+ R1=100
+ R2=5.45
+ C= {Cpar}
+ K1=0.0007
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6808.00804
.ends 0402HL-741_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-741
* Inductance = 740nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402HL-741_imp port1 port2 PARAMS: Cpar=1pF Ind=740nH
X1 port1 port2 Model1D PARAMS:
+ R1=100
+ R2=5.45
+ C= {Cpar}
+ K1=0.0007
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6808.00804
.ends 0402HL-741_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-821
* Inductance = 820nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402HL-821_freq port1 port2 PARAMS: Cpar=0.22pF Ind=820nH
X1 port1 port2 Model2A PARAMS:
+ R1=200
+ R2=5.85
+ C= {Cpar}
+ K1=0.0007
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17553.4993
.ends 0402HL-821_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402HL-821
* Inductance = 820nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402HL-821_imp port1 port2 PARAMS: Cpar=0.22pF Ind=820nH
X1 port1 port2 Model1D PARAMS:
+ R1=200
+ R2=5.85
+ C= {Cpar}
+ K1=0.0007
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17553.4993
.ends 0402HL-821_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
